US07612075B2
A. [2-(5-Chloro-thiophen-2-yl)-1-dimethylaminovinyl]phosphonic acid diethyl ester.
To a suspension of sodium hydride (0.25 g, 6.25 mmol, 60% mineral oil dispersion) in 10 mL of THF is added slowly a solution of tetraethyl dimethylaminomethylenediphosphonate (2.03 g, 6.14 mmol, prepared according to the procedure described in Psaume, Montury, and Cosmetic Comm. 1982, 12, 415) in 10 mL of THF. After stirring 1 h, a solution of 5-chloro-2-thiophene carboxaldehyde (0.90 g, 6.14 mmol) in 10 mL of THF is added. The resulting mixture is heated at reflux for 1 h, then cooled to room temperature. The reaction mixture is partitioned between Et2O and water. The organic layer is washed sequentially with 1N HCl, water and saturated NaCl, then dried over MgSO4, filtered and concentrated. The crude product is purified via flash column chromatography eluting with a gradient of 40% EtOAc/hexanes to 50% EtOAc/hexanes to afford the title compound (1.52 g, 4.69 mmol) as an oil. 1H NMR (CDCl3, 300 MHz) δ7.20 (d, 1H), 6.95 (d, 1H), 6.82 (d, 1H), 4.15 (m, 4H), 2.62 (s, 6H), 1.60 (t, 6H).

reactant | sodium hydride | 6.25 mmol, 0.25 g | [H-].[Na+]
reactant | tetraethyl dimethylaminomethylenediphosphonate | CN(C)C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C11H27NO6P2
reactant | 5-chloro-2-thiophene carboxaldehyde | 6.14 mmol, 0.90 g | ClC1=CC=C(S1)C=O | C5H3ClOS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [2-(5-Chloro-thiophen-2-yl)-1-dimethylaminovinyl]phosphonic acid diethyl ester | 4.69 mmol, 1.52 g | C(C)OP(OCC)(=O)C(=CC=1SC(=CC1)Cl)N(C)C | C12H19ClNO3PS
